US07034039B2
To a solution of 2-{(6-chloro-4-methoxy-2-methyl-1oxo-1,2-dihydro-3-isoquinolinyl)methyl}-1H-isoindole-1,3(2H)-dione (0.38 g, 1 mmol) in ethanol (10 ml) and tetrahydrofuran (10 ml) was added hydrazine monohydrate (0.14 ml, 3 mmol). The obtained mixture was refluxed under heating for 2 h. The reaction mixture was poured into saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To the residue was added a solution of 4N hydrogen chloride in ethyl acetate (2 ml), and the precipitated crystals were recrystallized from methanol-diethyl ether to give 3-(aminomethyl)-6-chloro-4-methoxy-2-methyl-1(2H)-isoquinolinone hydrochloride (0.08 g, 28.6%) as crystals.

reactant | 2-{(6-chloro-4-methoxy-2-methyl-1oxo-1,2-dihydro-3-isoquinolinyl)methyl}-1H-isoindole-1,3(2H)-dione | 1 mmol, 0.38 g | ClC=1C=C2C(=C(N(C(C2=CC1)=O)C)CN1C(C2=CC=CC=C2C1=O)=O)OC | C20H15ClN2O4
reactant | hydrazine monohydrate | 3 mmol, 0.14 ml | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(aminomethyl)-6-chloro-4-methoxy-2-methyl-1(2H)-isoquinolinone hydrochloride | 0.08 g, 28.6% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OC)Cl)=O)C | InChI=1S/C12H13ClN2O2.ClH/c1-15-10(6-14)11(17-2)9-5-7(13)3-4-8(9)12(15)16;/h3-5H,6,14H2,1-2H3;1H
